US07531672B2
Eaton's reagent was used as commercially obtained (Aldrich; 7.5% by weight of phosphorus pentoxide in methanesulfonic acid).

reactant | Eaton's reagent | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
